US07781431B2
A solution (0.5 M) of tert-butyl 5-bromo-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in DMF was treated with NaH (2 eq., 60% dispersion in mineral oil) and the suspension was stirred at RT for 30 min then methyl bromoacetate (3 eq.) was added. The reaction mixture was heated at 50° C. for 1 h, then after cooling down, it was diluted with AcOEt and aqueous HCl (1 M) was added. The aqueous phase was separated and extracted with AcOEt. The combined organic phase was washed sequentially with aqueous HCl (1 N), aqueous NaHCO3 (saturated solution) and brine then dried. Evaporation of the solvent under reduced pressure gave a residue that was dissolved in DME. The resulting solution (0.2 M) was treated with 3-furylboronic acid (1.5 eq.) and aqueous Na2CO3 (1 M solution, 2 eq.), the mixture was degassed and PdCl2(dppf)2 (0.05 eq.) was added. The reaction was heated to 80° C. for 5 h under argon atmosphere. After cooling down, the reaction was treated with aqueous HCl (1 N) and extracted with AcOEt. The combined organic phase was washed with brine and dried. Evaporation of the solvent under reduced pressure gave a residue that was purified by flash chromatography on silica gel (1:9 AcOEt/petroleum ether) affording tert-butyl 6-cyclohexyl-5-(3-furyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate that was dissolved in MeOH. The resulting solution (0.1 M) was treated with aqueous NaOH (2 N solution, 6 eq.). The reaction mixture was heated to reflux for 2 h. After cooling down, the reaction was concentrated and acidified to pH 1 with aqueous HCl (6 N). The acidic layer was extracted with AcOEt and the combined organic phase was washed with HCl (1 M) and brine, then dried. Evaporation of the solvent under reduced pressure gave a residue that was dissolved in DCM. The resulting solution (0.1 M) was treated with DIEA (2.5 eq.), 1-isopropyl-N-methylpyrrolidin-3-amine (1.1 eq.) and HATU (1.5 eq.). The reaction mixture was stirred at RT overnight, then it was diluted with AcOEt and washed sequentially with aqueous NaHCO3 (saturated solution) and brine then dried. Evaporation of the solvent under reduced pressure gave a residue that was treated with methanolic HCl (1.2 M solution, 25 eq.). The resulting solution (0.1 M) was stirred at RT for 2 h. Evaporation of the solvent under reduced pressure gave a residue that was purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 5 micron, 19×150 mm; flow: 20 mL/min; Gradient: A: H2O+0.1% TFA; B: MeCN+0.1% TFA; linear from 95% A to 5% A in 10 min) to afford the title compound (14%) as its TFA salt.

reactant | tert-butyl 5-bromo-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.5 M | BrC1=C(C2=C(N1)C=C(S2)C(=O)OC(C)(C)C)C2CCCCC2 | C17H22BrNO2S
reactant | NaH | 2 eq. | [H-].[Na+]
reactant | methyl bromoacetate | 3 eq. | BrCC(=O)OC | C3H5BrO2
reactant | 3-furylboronic acid | 1.5 eq. | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | Na2CO3 | 1 M, 2 eq. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | HCl | 1 M | Cl | ClH
solvent | DME | COCCOC | C4H10O2
catalyst | PdCl2(dppf)2 | 0.05 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | HCl | 1 N | Cl | ClH
product | tert-butyl 6-cyclohexyl-5-(3-furyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(CCCCC1)C=1C2=C(N(C1C1=COC=C1)CC(=O)OC)C=C(S2)C(=O)OC(C)(C)C | C24H29NO5S
